US04220603
A solution of 3.0 g of 2-(4-bromobutoxy)-2'-chlorobibenzyl in 15 ml of 50% aqueous dimethylamine solution and 15 ml of tetrahydrofuran was stirred at room temperature for 5 hours. The reaction mixture was concentrated and to the concentrate was added 2N-NaOH solution. The product was extracted with ether, washed well with saturated sodium chloride solution and then dried over anhydrous sodium sulfate. To the ether solution was added 20% ethanolic hydrogen chloride to yield white crystals. Recrystallization from ethanol-ether gave 2.8 g (93% yield) of 2-(4-dimethylaminobutoxy)-2'-chlorobibenzyl hydrochloride, m. p. 122°-123° C.

reactant | 2-(4-bromobutoxy)-2'-chlorobibenzyl | 3.0 g | BrCCCCOC1=C(C=CC=C1)CCC1=C(C=CC=C1)Cl | C18H20BrClO
reactant | dimethylamine | 15 ml | CNC | C2H7N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-(4-dimethylaminobutoxy)-2'-chlorobibenzyl hydrochloride | 2.8 g, 93% yield | Cl.CN(CCCCOC1=C(C=CC=C1)CCC1=C(C=CC=C1)Cl)C | InChI=1S/C20H26ClNO.ClH/c1-22(2)15-7-8-16-23-20-12-6-4-10-18(20)14-13-17-9-3-5-11-19(17)21;/h3-6,9-12H,7-8,13-16H2,1-2H3;1H
